US05968985
To a mixture of 3-methoxycarbonyl-5-(2,5-dichlorothiophen-3-yl)benzoic acid (0.7 g), N,N-dimethylethylenediamine (0.186 g) and 1-hydroxybenzotriazole (0.314 g) in dichloromethane (25 ml) was added 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide (0.446 g) under ice cooling, and the solution was stirred for 7 hours at room temperature. After evaporating the solvent, the residue was dissolved in a mixture of ethyl acetate and saturated aqueous sodium hydrogencarbonate solution with stirring. The organic layer was successively washed with water and brine, dried over magnesium sulfate and evaporated in vacuo. The residue was purified by column chromatography on silica gel eluting with a mixture of chloroform and methanol (20:1). The eluted fractions containing the desired product were collected and evaporated in vacuo to afford methyl 5-(2,5-dichlorothiophen-3-yl)-3-[(2-dimethylaminoethyl)carbamoyl]benzoate (0.57 g).

reactant | 3-methoxycarbonyl-5-(2,5-dichlorothiophen-3-yl)benzoic acid | 0.7 g | COC(=O)C=1C=C(C(=O)O)C=C(C1)C1=C(SC(=C1)Cl)Cl | C13H8Cl2O4S
reactant | N,N-dimethylethylenediamine | 0.186 g | CN(CCN)C | C4H12N2
reactant | 1-hydroxybenzotriazole | 0.314 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide | 0.446 g | C(C)N=C=NCCCN(C)C | C8H17N3
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | methyl 5-(2,5-dichlorothiophen-3-yl)-3-[(2-dimethylaminoethyl)carbamoyl]benzoate | 0.57 g | ClC=1SC(=CC1C=1C=C(C=C(C(=O)OC)C1)C(NCCN(C)C)=O)Cl | C17H18Cl2N2O3S
